US09062028B2
Step A. 2-(Methylthio)-4-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)pyrimidine
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.5 g, 2.58 mmol), potassium carbonate (0.356 g, 2.58 mmol) and 5-(bromomethyl)-2-(methylthio)pyrimidine (30% in THF, 2.070 g, 2.83 mmol) in DMF (5 mL) was stirred at room temperature for 14 h. After this time, the reaction mixture was diluted with EtOAc, washed with saturated sodium bicarbonate, dried over anhydrous MgSO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound (0.6 g, 70% yield) as a light yellow solid. LCMS, [M+H]+=333.2. 1H NMR (400 MHz, CDCl3) δ 8.43 (d, J=5.1 Hz, 1H), 7.87 (s, 1H), 7.81 (s, 1H), 6.49 (d, J=5.1 Hz, 1H), 5.36 (s, 2H), 2.56 (s, 3H), 1.33 (s, 12H).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.58 mmol, 0.5 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | potassium carbonate | 2.58 mmol, 0.356 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(bromomethyl)-2-(methylthio)pyrimidine | 2.83 mmol, 2.070 g | BrCC=1C=NC(=NC1)SC | C6H7BrN2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(Methylthio)-4-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)pyrimidine | 0.6 g, 70% yield | CSC1=NC=CC(=N1)CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H21BN4O2S
